US05106871
Then, 32.3 g of 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-hydroxyphenyl)-1-propanone was dissolved in 150 ml of anhydrous acetone, 32.6 g of anhydrous potassium carbonate was added to the solution, and the mixture was stirred for 30 minutes. Then, 17.3 g of methyl α-bromoacetate was added to the reaction mixture, and the mixture was stirred at room temperature for 1 day to effect a reaction. After the reaction, the reaction mixture was neutralized with dilute hydrochloric acid and extracted with ethyl acetate, and the solvent was removed from the extract by distillation to obtain 37.0 g (yield=94.6%) of 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxycarbonylmethoxyphenyl)-1-propanone in the form of a colorless prism.

reactant | 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-hydroxyphenyl)-1-propanone | 32.3 g | OC1=C(C=CC(=C1CCC(C)C)OC)C(CCC1=CC=C(C=C1)O)=O | C21H26O4
reactant | potassium carbonate | 32.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl α-bromoacetate | 17.3 g | BrCC(=O)OC | C3H5BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxycarbonylmethoxyphenyl)-1-propanone | 37.0 g, yield=94.6% | OC1=C(C=CC(=C1CCC(C)C)OC)C(CCC1=CC=C(C=C1)OCC(=O)OC)=O | C24H30O6
